US09023858B2
E) 6-amino-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one
A mixture of 6-[bis(2,4-dimethoxybenzyl)amino]-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one (0.68 g), anisole (0.459 mL) and trifluoroacetic acid (7 mL) was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.19 g).

reactant | 6-[bis(2,4-dimethoxybenzyl)amino]-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one | 0.68 g | COC1=C(CN(C2=CC(N(C(=N2)SCC)C2=CC=C(C=C2)OCC(F)(F)F)=O)CC2=C(C=C(C=C2)OC)OC)C=CC(=C1)OC | C32H34F3N3O6S
reactant | anisole | 0.459 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 7 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 6-amino-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one | 0.19 g | NC1=CC(N(C(=N1)SCC)C1=CC=C(C=C1)OCC(F)(F)F)=O | C14H14F3N3O2S
